US07807686B2
2-Acetylamino-5-[(S)-(+)-3-hydroxy-2-methylpropoxy]benzoic acid methyl ester (1.00 g, 3.6 mmol) prepared as in Procedure VII (Step a) was dissolved in 6 N HCl (aq.) (10 mL) and dioxane (5 mL) and heated at reflux temperature for 8 h. The mixture was then cooled and concentrated in vacuo giving 2-amino-5-[(S)-(+)-3-hydroxy-2-methylpropoxy]benzoic acid (936 mg, 3.6 mmol, 100%) as the hydrochloride salt.

reactant | 2-Acetylamino-5-[(S)-(+)-3-hydroxy-2-methylpropoxy]benzoic acid methyl ester | 3.6 mmol, 1.00 g | COC(C1=C(C=CC(=C1)OC[C@H](CO)C)NC(C)=O)=O | C14H19NO5
reactant | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | HCl | 6 N, 10 mL | Cl | ClH
product | 2-amino-5-[(S)-(+)-3-hydroxy-2-methylpropoxy]benzoic acid | 3.6 mmol, 936 mg, 100% | NC1=C(C(=O)O)C=C(C=C1)OC[C@H](CO)C | C11H15NO4
